US07645789B2
A solution of 1-[4-(2-tert-butoxycarbonyl-ethoxy)-phenyl]-cyclopropanecarboxylic methyl ester (6.3 g, 20 mmol) in HCl (20%, 200 mL) was heated at 110° C. for 1 h. After cooling to room temperature, the resulting mixture was filtered. The solid was washed with water and dried under vacuum to give 1-[4-(2-carboxy-ethoxy)-phenyl]-cyclopropanecarboxylic methyl ester (5.0 g, 96%). 1H NMR (300 MHz, DMSO) δ 7.23-7.19 (m, 2H), 6.85-6.81 (m, 2H), 4.13 (t, J=6.0 Hz, 2H), 3.51 (s, 3H), 2.66 (t, J=6.0 Hz, 2H), 1.43-1.39 (m, 2H), 1.14-1.10 (m, 2H).

reactant | 1-[4-(2-tert-butoxycarbonyl-ethoxy)-phenyl]-cyclopropanecarboxylic methyl ester | 20 mmol, 6.3 g | COC(=O)C1(CC1)C1=CC=C(C=C1)OCCC(=O)OC(C)(C)C | C18H24O5
solvent | HCl | 200 mL | Cl | ClH
product | 1-[4-(2-carboxy-ethoxy)-phenyl]-cyclopropanecarboxylic methyl ester | 5.0 g, 96% | COC(=O)C1(CC1)C1=CC=C(C=C1)OCCC(=O)O | C14H16O5
